US09402841B2
Step A: (R)-tert-butyl 2-(((3-cyanoisoquinolin-1-yl)oxy)methyl)pyrrolidine-1-carboxylate
A mixture of (R)-tert-butyl 2-(hydroxymethyl)pyrrolidine-1-carboxylate (444 mg, 2.206 mmol) and Cs2CO3 (719 mg, 2.206 mmol) in NMP (4 mL) were stirred at 0° C. for 1 hour. Next, 1-chloroisoquinoline-3-carbonitrile (400 mg, 2.121 mmol) was added and the reaction mixture was heated at 140° C. for 15 minutes in a microwave reactor. Additional Cs2CO3 (719 mg, 2.206 mmol) was added. The reaction mixture heated at 140° C. for 1 hour to give the title compound, which was used directly in the next step.

reactant | (R)-tert-butyl 2-(hydroxymethyl)pyrrolidine-1-carboxylate | 2.206 mmol, 444 mg | OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | Cs2CO3 | 2.206 mmol, 719 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-chloroisoquinoline-3-carbonitrile | 2.121 mmol, 400 mg | ClC1=NC(=CC2=CC=CC=C12)C#N | C10H5ClN2
reactant | Cs2CO3 | 2.206 mmol, 719 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | NMP | 4 mL | CN1CCCC1=O | C5H9NO
product | (R)-tert-butyl 2-(((3-cyanoisoquinolin-1-yl)oxy)methyl)pyrrolidine-1-carboxylate | C(#N)C=1N=C(C2=CC=CC=C2C1)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C20H23N3O3
